US08809539B2
Triethylamine (52 mL, 0.373 mol) is added to a stirred solution of 2-fluorobiphenyl-4-carboxylic acid (40 g, 0.185 mol) in tetrahydrofuran (800 mL). The reaction mixture is cooled to 5-15° C., iso-butyl chloroformate (36.5 mL, 0.28 mol) is added over a period of 20 minutes and stirred for 2 hrs at 15-20° C. A solution of N-hydroxy-4-hydroxymethylbenzamidine (36.9 g, 0.22 mol) in tetrahydrofuran (400 mL) is added to the reaction mixture and stirred for 2 hrs at 20-25° C. The reaction mixture is concentrated under reduced pressure, demineralized water (400 mL) is added to the residue and stirred for one hour at 5-10° C. The slurry is filtered, washed with demineralized water (400 mL) and dried under reduced pressure. The solid is stirred in 5% aqueous sodium bicarbonate solution (600 mL), filtered, washed with demineralized water and dried under reduced pressure. Finally the solid is washed with cyclohexane (600 mL) and dried under reduced pressure at 40-50° C. to give 2-fluorobiphenyl-4-carboxylic acid [hydroxyimino(4-hydroxy-methylphenyl)methyl]amide.

reactant | Triethylamine | 0.373 mol, 52 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluorobiphenyl-4-carboxylic acid | 0.185 mol, 40 g | FC1=C(C=CC(=C1)C(=O)O)C1=CC=CC=C1 | C13H9FO2
reactant | iso-butyl chloroformate | 0.28 mol, 36.5 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-hydroxy-4-hydroxymethylbenzamidine | 0.22 mol, 36.9 g | ONC(C1=CC=C(C=C1)CO)=N | C8H10N2O2
reactant | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 2-fluorobiphenyl-4-carboxylic acid [hydroxyimino(4-hydroxy-methylphenyl)methyl]amide | ON=C(C1=C(C=C(C=C1)O)C)NC(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C21H17FN2O3
